US09212190B2
A solution of 2-[(12R)-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]ethan-1-ol (300 mg, 1.12 mmol, 1.00 equiv) in 5 mL of distilled DMF was added TBSCl (252 mg, 1.50 equiv) and imidazole (137 mg, 2.01 mmol, 1.80 equiv) at room temperature under nitrogen. The resulting solution was stirred for 1 h at ambient temperature and then quenched water, extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5) to provide (12R)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene (420 mg, 98%) as a light yellow solid. LC-MS (ES, m/z): 384, 386 [M+H]+.

reactant | 2-[(12R)-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]ethan-1-ol | 1.12 mmol, 300 mg, 1.00 equiv | ClC=1C=2C=3C[C@@H](CCC3SC2N=CN1)CCO | C12H13ClN2OS
reactant | TBSCl | 252 mg, 1.50 equiv | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 2.01 mmol, 137 mg, 1.80 equiv | N1C=NC=C1 | C3H4N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (12R)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene | 420 mg, 98% | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1CCC=2SC=3N=CN=C(C3C2C1)Cl | C18H27ClN2OSSi
